2112-02-01 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Cont'd on Levophed and Bicarb drips.
   - Called for pt's abg of  7.47/29/88/22 at 10pm labs -- cont'd bicarb
   drip, given pt's K still 5.4 but decreased tidal volume 450 -> 400.
   Allergies:
   Lisinopril
   angioedema;
   Felodipine
   Wheezing;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Iodine
   Wheezing;
   Latex
   Rash;
   Levofloxacin Hemihydrate (Miscell.) (Levofloxacin)
   swollen lips;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   swollen lips;
   Sulfa (Sulfonamides)
   lip swelling an
   Clindamycin
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefipime - [**2112-1-31**] 01:45 AM
   Meropenem - [**2112-2-1**] 02:00 AM
   Ciprofloxacin - [**2112-2-1**] 03:20 AM
   Metronidazole - [**2112-2-1**] 04:47 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2112-2-1**] 06:13 AM
   Midazolam (Versed) - [**2112-2-1**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 113 (59 - 113) bpm
   BP: 115/56(74) {89/42(52) - 138/68(91)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 62 Inch
             Total In:
                                                                  8,216 mL
                                                                  1,278 mL
   PO:
             TF:
   IVF:
                                                                  4,166 mL
                                                                  1,278 mL
   Blood products:
   Total out:
                                                                    447 mL
                                                                    231 mL
   Urine:
                                                                     47 mL
                                                                     61 mL
   NG:
                                                                    400 mL
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                  7,769 mL
                                                                  1,047 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 450) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/34/87.[**Numeric Identifier 181**]/20/-4
   Ve: 6.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   10.5 g/dL
   180 mg/dL
   3.9 mg/dL
   20 mEq/L
   4.9 mEq/L
   68 mg/dL
   100 mEq/L
   137 mEq/L
   33.3 %
   21.7 K/uL
         [image002.jpg]
                            [**2112-1-31**]  04:49 AM
                            [**2112-1-31**]  06:20 AM
                            [**2112-1-31**]  06:34 AM
                            [**2112-1-31**]  01:43 PM
                            [**2112-1-31**]  02:09 PM
                            [**2112-1-31**]  09:45 PM
                            [**2112-1-31**]  10:00 PM
                            [**2112-2-1**]  02:56 AM
                            [**2112-2-1**]  03:09 AM
                            [**2112-2-1**]  05:39 AM
   WBC
   18.2
   19.2
   21.7
   21.7
   Hct
   30.7
   32.2
   33.0
   33.3
   Plt
   116
   108
   102
   101
   Cr
   3.8
   3.8
   3.9
   3.9
   TropT
   0.08
   TCO2
   15
   16
   19
   22
   22
   20
   Glucose
   159
   159
   132
   165
   180
   Other labs: PT / PTT / INR:21.7/32.3/2.0, CK / CKMB /
   Troponin-T:618/9/0.08, ALT / AST:430/789, Alk Phos / T Bili:980/5.0,
   Fibrinogen:235 mg/dL, Lactic Acid:4.9 mmol/L, Albumin:2.1 g/dL,
   LDH:[**Numeric Identifier 12384**] IU/L, Ca++:6.1 mg/dL, Mg++:2.9 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   Assessment and Plan: 58F with widely metastatic colon cancer,
   presenting with septic shock and severe metabolic acidosis, ARF,
   hyperkalemia.
   .
   # Hypotension/Septic shock/MODS.  Multiple organ dysfunction including
   pulmonary, cardiac, heme, hepatic, renal failure.  Source possibilities
   include pulmonary, GI (?could she have perf given abd exam), line
   infection (has port), urinary (though making minimal urine), CNS
   infection (though other sources probably more likely).  Needs
   simultaneous broad spectrum treatment and workup.
   - blood cultures pending.
   - urine culture and UA if voids.
   - Further source workup with imaging following intubation as long as
   stable enough.  Dedicated KUB now vs. waiting until stable.  Likely
   pan-CT once intubated.
   - Double GNR coverage with cefepime, cipro; vanco and flagyl.
   - Levophed, titrate as needed.
   - Correction of acidosis and renal failure as able.
   .
   # Metabolic/lactic acidosis.  With severe systemic hypoperfusion and
   hypotension. Lactate to 4.3  from 10. Acidosis resolved.
   - Correct BP.
   - Trend lactate.
   - Treatment of infection as above.
   .
   # ARF/hyperkalemia.  Likely hypotension induced ATN from sepsis.  No
   known offending meds.  Has not yet responded to any fluid resuscitation
   and is basically anuric at this point.  Renal believes patient will
   need dialysis in the next 48 hours. Given prognosis they would like to
   avoid. Hyperkalemia resolved. Monitor [**Hospital1 7**] lytes.
   - Lasix 120mg IV once
   - Calcium gluconate prn ECG changes.
   - Serial ECGs.
   - FU Renal recs
   .
   # Coagulopathy/thrombocytopenia.  Likely DIC given severity of
   infection.
   - [**Hospital1 7**] coags and fibrinogen.
   - Check FDP with next draw.
   - Cryo for f'gen < 100; FFP prior to procedures.
   .
   # Transaminitis.  Likely shock liver.
   - Support BP and management of sepsis as above.
   - check d-bili.
   .
   # Hypoxia and respiratory distress.  Evidence of pneumonia on right.
   Also with wheezes.  Respiratory distress reportedly acute onset; would
   be at high risk for PE given malignancy.  Difficulty with CT right now
   given positioning and renal failure, and would be risky to empirically
   heparinize given unknown status re: brain mets or other intracranial
   process.
   - Intubate now.
   - Monitor ABGs closely following intubation as maintaining high
   ventilation/low pCO2 on own and needs this respiratory compensation -
   goal for higher minute ventilations.
   - CT chest non contrast, evaluate effusion. Based on CT would consider
   diagnostic thoracentesis.
   .
   # ECG changes.  Lower voltage, poor RWP compared to prior.  No clear
   elevation in JVD, not tachycardic, and sources other than tamponade
   more likely playing a role in hypotension. TT trending down to 0.08
   today.
   - FU  TTE today.
   ..
   # Leukocytosis/bandemia.  With sepsis as above.
   - Management of septic shock as above.
   .
   # FEN:  replete electrolytes, NPO for now
   # Prophylaxis: Hold SQH given coagulopathy; boots
   # Access: peripherals, port, ?need TLC, ?need HD line
   # Communication: husband
   # Code:  Full - discussed with husband.  [**Name (NI) **] was hospice care at
   home with cutting down all meds.  Clearly current aggressive plans not
   in line with this, but husband hopeful despite very poor current (and
   longterm) prognosis.  He is still actively looking for alternative
   treatments for cancer.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2112-1-31**] 12:54 AM
   20 Gauge - [**2112-1-31**] 12:55 AM
   18 Gauge - [**2112-1-31**] 02:02 AM
   Arterial Line - [**2112-1-31**] 02:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2112-02-03 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Metastatic Colon Cancer, Sepsis, Multi Organ Failure
   24 Hour Events:
   - Family meeting: family agreed to no HD, no [**Hospital 12420**] medical management
   only, are in process of discussing possible extubation. In process of
   making patient no CPR, chemical code only
   - Polystyrene extracted in total from stomach (no gastric emptying)
   - Gave fentanyl bolus this a.m. when patient became aggitated.
   - Patient is hypocalcemic, but held on giving more Ca given high
   phosphate.  Will re-check Ca in a.m. and reevaluate.
   Allergies:
   Lisinopril
   angioedema;
   Felodipine
   Wheezing;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Iodine
   Wheezing;
   Latex
   Rash;
   Levofloxacin Hemihydrate (Miscell.) (Levofloxacin)
   swollen lips;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   swollen lips;
   Sulfa (Sulfonamides)
   lip swelling an
   Clindamycin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-1**] 05:30 PM
   Ciprofloxacin - [**2112-2-2**] 04:45 AM
   Metronidazole - [**2112-2-2**] 12:06 PM
   Meropenem - [**2112-2-3**] 01:53 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2112-2-2**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-3**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 92 (86 - 104) bpm
   BP: 104/55(69) {83/49(62) - 116/62(77)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 62 Inch
             Total In:
                                                                  1,653 mL
                                                                    218 mL
   PO:
             TF:
                                                                    409 mL
                                                                     65 mL
   IVF:
                                                                  1,094 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                     70 mL
   Urine:
                                                                    160 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,493 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 652 (545 - 695) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.44/30/81.[**Numeric Identifier 218**]/19/-1
   Ve: 8.8 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Gen:
   Pulm:
   Cardiac:
   Abd:
   Skin:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   10.8 g/dL
   96 mg/dL
   4.1 mg/dL
   19 mEq/L
   5.8 mEq/L
   71 mg/dL
   100 mEq/L
   136 mEq/L
   34.4 %
   27.0 K/uL
        [image002.jpg]
                            [**2112-2-1**]  02:56 AM
                            [**2112-2-1**]  03:09 AM
                            [**2112-2-1**]  05:39 AM
                            [**2112-2-1**]  12:57 PM
                            [**2112-2-1**]  05:10 PM
                            [**2112-2-2**]  01:46 AM
                            [**2112-2-2**]  06:30 AM
                            [**2112-2-2**]  03:27 PM
                            [**2112-2-3**]  02:36 AM
                            [**2112-2-3**]  02:44 AM
   WBC
   21.7
   24.1
   25.2
   25.0
   27.0
   Hct
   33.3
   34.0
   32.9
   33.0
   34.4
   Plt
   101
   79
   49
   43
   40
   Cr
   3.9
   3.9
   4.2
   4.0
   4.1
   TCO2
   22
   20
   20
   21
   21
   Glucose
   180
   112
   107
   127
   96
   Other labs: PT / PTT / INR:19.6/32.1/1.8, CK / CKMB /
   Troponin-T:618/9/0.08, ALT / AST:217/114, Alk Phos / T Bili:898/5.6,
   Fibrinogen:275 mg/dL, Lactic Acid:5.3 mmol/L, Albumin:2.1 g/dL,
   LDH:[**Numeric Identifier 12384**] IU/L, Ca++:7.2 mg/dL, Mg++:2.8 mg/dL, PO4:6.9 mg/dL
GRAM STAIN (Final [**2112-1-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                             SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S
Blood Cultures: Pending
   Assessment and Plan: 58F with widely metastatic colon cancer,
   presenting with septic shock and severe metabolic acidosis, ARF,
   hyperkalemia.
   # Family meeting and plan of care
   The family wants medical treatment without invasive measures.  The
   measures that they wish to forgo include dialysis.  The measures to
   continue include pressors, medical treatment of hyperkalemia,
   antibiotics. Please see Attending note for further detail.
   -- No dialysis
   -- Continue antibiotics, pressors, medical treatment.
   # Hypotension/Septic shock/MODS.  No obvious site from which sepsis
   originated.  Multiple organ dysfunction including neurologic impairment
   (delirium to stupor), pulmonary, cardiac, hepatic, renal failure.
   Source possibilities include pulmonary, GI, line infection (has port),
   urinary (though making minimal urine), CNS infection (though other
   sources probably more likely).  Needs simultaneous broad spectrum
   treatment and workup. CT significant only for extensive metastatic
   disease. Possible mesenteric ischemia in setting of hypotension,
   resulting in extensive translocation
 await blood culture, Gram stain
   of this and speciation. Cover broadly until then.  Given above
 only
   medical management. Did not tolerate PO polystyrene today.
   - FU Blood cultures
   - Double GNR coverage with cefepime, cipro; meropenum and flagyl.
   - Levophed, titrate as needed.
   - Correction of acidosis and sequelae of renal failure by medical
   means.
   - Bicarb for above.
   # Metabolic/lactic acidosis.  With severe systemic hypoperfusion and
   hypotension. Lactate to 5.3 from 10. Acidosis resolved.
   - Correct BP
   - Trend lactate
   - Treatment of infection as above.
   # ARF/hyperkalemia.  Likely hypotension induced ATN from sepsis.  No
   known offending meds.  Did not respond to any fluid resuscitation and
   is basically anuric at this point.  Renal believes patient will need
   dialysis in the next 48 hours (they are happy to perform but see that
   the prognosis is grave). After family meeting, decided to forgo
   dialysis. Hyperkalemia and hyperphosphatemia prominent. Monitor [**Hospital1 7**]
   lytes, hold Ca given phosphate. No response to 120 mg IV Lasix last
   night. Polystyrene not tolerated (all recovered from NGT). Poor
   response to kayexalate [**2-2**].
   - Bicarb for Hyperkalemia
   - DC
   # Coagulopathy/thrombocytopenia.
   Likely DIC given severity of infection and very high FDP, but
   fibrinogen presently WNLs.  NTD.
   - Transfuse platlets when <10 or if bleeds.
   # Transaminitis.  Likely shock liver. Is improving now.
   - Support BP and management of sepsis as above.
   # Hypoxia and respiratory distress.  Evidence of pneumonia on right.
   Also with wheezes.  RLL atelectic.
   - Continue antibiotics.
   - Monitor ABGs
   # Leukocytosis/bandemia.  With sepsis as above. Continuing to rise.
   - Management of septic shock as above.
   - Continue antibiotic therapy
   # FEN:  Replete electrolytes, NPO for now (based on trial with complete
   suction of stomach contents)
   # Prophylaxis: Hold SQH given coagulopathy; boots
   # Access: peripherals, port
   # Communication: husband
   # Code:  Full - discussed with husband.  [**Name (NI) **] was hospice care at
   home with cutting down all meds.  Clearly current aggressive plans not
   in line with this, but husband hopeful despite very poor current (and
   longterm) prognosis.  He is still actively looking for alternative
   treatments for cancer.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2112-2-2**] 09:16 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2112-1-31**] 12:54 AM
   18 Gauge - [**2112-1-31**] 02:02 AM
   Arterial Line - [**2112-1-31**] 02:44 AM
   Prophylaxis:
   DVT:  None given thrombocytopenia and elevated INR
   Stress ulcer: Famotidine
   VAP:  Head of Bed to 30 degress, frequent suctioning
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending clinical improvement.

2112-02-04 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Metastatic Colon Cancer, Sepsis, MOD
   24 Hour Events:
   - Patient restarted on Versed drip for increased agitation
   - PM K+ stable at 5.8 despite 2 amps NaHCO3
   Allergies:
   Lisinopril
   angioedema;
   Felodipine
   Wheezing;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Iodine
   Wheezing;
   Latex
   Rash;
   Levofloxacin Hemihydrate (Miscell.) (Levofloxacin)
   swollen lips;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   swollen lips;
   Sulfa (Sulfonamides)
   lip swelling an
   Clindamycin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-1**] 05:30 PM
   Meropenem - [**2112-2-4**] 02:00 AM
   Metronidazole - [**2112-2-4**] 04:00 AM
   Ciprofloxacin - [**2112-2-4**] 05:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl (Concentrate) - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2112-2-3**] 09:15 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2112-2-3**] 12:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 111 (99 - 118) bpm
   BP: 104/58(73) {89/50(62) - 129/70(91)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 62 Inch
             Total In:
                                                                    887 mL
                                                                    493 mL
   PO:
             TF:
                                                                     80 mL
   IVF:
                                                                    706 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                    168 mL
                                                                     60 mL
   Urine:
                                                                    168 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    719 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 697 (584 - 697) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 7.8 L/min
   Physical Examination
   Gen: Intubated, Sedated
   Pulm: Bilateral Rhonchi, No wheezing
   Cardiac: Tachycardic, no m/r/g
   Abd: distended, no bowel sounds
   Skin: jaundice, no rashes
   Labs / Radiology
   42 K/uL
   10.9 g/dL
   90 mg/dL
   4.3 mg/dL
   19 mEq/L
   5.2 mEq/L
   76 mg/dL
   100 mEq/L
   138 mEq/L
   34.1 %
   25.6 K/uL
        [image002.jpg]
                            [**2112-2-1**]  03:09 AM
                            [**2112-2-1**]  05:39 AM
                            [**2112-2-1**]  12:57 PM
                            [**2112-2-1**]  05:10 PM
                            [**2112-2-2**]  01:46 AM
                            [**2112-2-2**]  06:30 AM
                            [**2112-2-2**]  03:27 PM
                            [**2112-2-3**]  02:36 AM
                            [**2112-2-3**]  02:44 AM
                            [**2112-2-4**]  03:18 AM
   WBC
   24.1
   25.2
   25.0
   27.0
   25.6
   Hct
   34.0
   32.9
   33.0
   34.4
   34.1
   Plt
   79
   49
   43
   40
   42
   Cr
   3.9
   4.2
   4.0
   4.1
   4.3
   TCO2
   22
   20
   20
   21
   21
   Glucose
   112
   107
   127
   96
   90
   Other labs: PT / PTT / INR:20.6/32.5/1.9, CK / CKMB /
   Troponin-T:618/9/0.08, ALT / AST:217/114, Alk Phos / T Bili:898/5.6,
   Fibrinogen:275 mg/dL, Lactic Acid:5.3 mmol/L, Albumin:2.1 g/dL,
   LDH:[**Numeric Identifier 12384**] IU/L, Ca++:6.8 mg/dL, Mg++:2.8 mg/dL, PO4:7.1 mg/dL
   Urine: NG Final
   Blood: NG Pending
   Assessment and Plan
   Assessment and Plan: 58F with widely metastatic colon cancer,
   presenting with septic shock and severe metabolic acidosis, ARF,
   hyperkalemia.
   # Family meeting and plan of care:
   The family wants medical treatment without invasive measures.  The
   measures that they wish to forgo include dialysis.  The measures to
   continue include pressors, medical treatment of hyperkalemia,
   antibiotics. Please see Attending note for further detail.
   -- No dialysis
   -- Continue antibiotics, pressors, medical treatment.
   # Hypotension/Septic shock/MODS.  Most likely pulmonary source given
   positive sputum culture and evidence of right sided pneumonia. Pt
   pressures stable with low dose of levophed, has not tolerated dc
   pressures, given sedating medications.   No HD per family request.
   Shock liver resolving. Afebrile at this time.
   - FU Blood cultures
   - Double GNR coverage with cefepime, cipro; meropenum,  flagyl,
   vancomycin dosed per level.  Will consider narrowing coveage for MSSA
   tomorrow.
   - Levophed, titrate as needed.
   - Correction of acidosis and sequelae of renal failure by medical
   means.
   - Bicarb for above.
   .
   # ARF/hyperkalemia. ATN secondary to hyopotension.  Creatinine stable.
   Persistent hyperkalemia without EKG changes. No bm so unable to use
   kayexalate.
   - Bicarb for Hyperkalemia
   - Daily lytes
   .
   # Coagulopathy/thrombocytopenia.
   Likely DIC given severity of infection and very high FDP, but
   fibrinogen presently WNLs.  NTD.
   - Consider transfusion of  platelets when <10 or if bleeds.
   # Transaminitis.  Likely shock liver. Is improving now.
   - Support BP and management of sepsis as above.
   # Hypoxia and respiratory distress.  Evidence of pneumonia on right.
   Also with wheezes.  RLL atelectic. Afebrile. Will discuss with family
   extubation. Currently, patient tolerating minimal pressure support.
   - Continue antibiotics.
   - Family meeting re: extubation (awaiting out
[**Location 12454**]family)
   .
   # Leukocytosis/bandemia.  With sepsis as above. Stable.
   - Management of septic shock as above.
   - Continue antibiotic therapy. Narrow as above.
   # FEN:  Replete electrolytes, NPO for now (based on trial with complete
   suction of stomach contents)
   # Prophylaxis: Hold SQH given coagulopathy; boots
   # Access: peripherals, port
   # Communication: husband
   # Code:  Full - discussed with husband.  [**Name (NI) **] was hospice care at
   home with cutting down all meds.  Clearly current aggressive plans not
   in line with this, but husband hopeful despite very poor current (and
   longterm) prognosis.  He is still actively looking for alternative
   treatments for cancer.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin, Sliding Scale
   Lines:
   Indwelling Port (PortaCath) - [**2112-1-31**] 12:54 AM
   18 Gauge - [**2112-1-31**] 02:02 AM
   Arterial Line - [**2112-1-31**] 02:44 AM
   Prophylaxis:
   DVT: Hold SQH given coagulopathy, boots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: See above. No CPR, No epi, No atropine.
   Disposition: ICU for Now.

2112-02-05 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Metastatic Colon Cancer, Sepsis
   24 Hour Events:
   - Social Work consult placed for Family
   - Dr. [**Last Name (STitle) 775**] spoke with family, no final decision has been reached
   regarding extubation, CMO, etc.
   - DC'd Insulin Sliding Scale, Patient has not required insulin since
   sliding scale was started.
   Allergies:
   Lisinopril
   angioedema;
   Felodipine
   Wheezing;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Iodine
   Wheezing;
   Latex
   Rash;
   Levofloxacin Hemihydrate (Miscell.) (Levofloxacin)
   swollen lips;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   swollen lips;
   Sulfa (Sulfonamides)
   lip swelling an
   Clindamycin
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-4**] 08:30 AM
   Meropenem - [**2112-2-4**] 02:00 PM
   Ciprofloxacin - [**2112-2-5**] 04:00 AM
   Metronidazole - [**2112-2-5**] 05:00 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-5**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 101 (101 - 121) bpm
   BP: 92/51(64) {89/51(63) - 142/79(102)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 62 Inch
             Total In:
                                                                  1,345 mL
                                                                    402 mL
   PO:
             TF:
   IVF:
                                                                  1,085 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                     10 mL
   Urine:
                                                                    140 mL
                                                                     10 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  1,095 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 662 (596 - 701) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 8.6 L/min
   Physical Examination
   Gen: Intubated, Sedated
   Pulm: Bilateral Rhonchi, Decrease BS RLL
   CV: Tachycardic, No M/R/G
   ABD: Distended, No bowel sounds.
   Neurologic: Does not respond to command, Grimaces to pain,
   Labs / Radiology
   39 K/uL
   11.0 g/dL
   77 mg/dL
   4.5 mg/dL
   23 mEq/L
   5.1 mEq/L
   79 mg/dL
   99 mEq/L
   139 mEq/L
   34.3 %
   26.8 K/uL
        [image002.jpg]
                            [**2112-2-1**]  05:39 AM
                            [**2112-2-1**]  12:57 PM
                            [**2112-2-1**]  05:10 PM
                            [**2112-2-2**]  01:46 AM
                            [**2112-2-2**]  06:30 AM
                            [**2112-2-2**]  03:27 PM
                            [**2112-2-3**]  02:36 AM
                            [**2112-2-3**]  02:44 AM
                            [**2112-2-4**]  03:18 AM
                             [**2112-2-5**]  02:47 AM
   WBC
   24.1
   25.2
   25.0
   27.0
   25.6
   26.8
   Hct
   34.0
   32.9
   33.0
   34.4
   34.1
   34.3
   Plt
   79
   49
   43
   40
   42
   39
   Cr
   3.9
   4.2
   4.0
   4.1
   4.3
   4.5
   TCO2
   20
   20
   21
   21
   Glucose
   112
   107
   127
   96
   90
   77
   Other labs: PT / PTT / INR:22.7/35.3/2.1, CK / CKMB /
   Troponin-T:618/9/0.08, ALT / AST:217/114, Alk Phos / T Bili:898/5.6,
   Fibrinogen:275 mg/dL, Lactic Acid:5.3 mmol/L, Albumin:2.1 g/dL,
   LDH:[**Numeric Identifier 12384**] IU/L, Ca++:6.7 mg/dL, Mg++:2.7 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   Assessment and Plan: 58F with widely metastatic colon cancer,
   presenting with septic shock and severe metabolic acidosis, ARF,
   hyperkalemia.
   # Family meeting and plan of care:
   The family wants medical treatment without invasive measures.  The
   measures that they wish to forgo include dialysis.  The measures to
   continue include pressors, medical treatment of hyperkalemia,
   antibiotics. Please see Attending note for further detail.
   -- Further discussion regarding extubation today
   -- No dialysis
   -- Continue antibiotics, pressors, medical treatment.
   # Hypotension/Septic shock/MODS.  Most likely pulmonary source given
   positive sputum culture and evidence of right sided pneumonia. Off
   pressors for some time yesterday, required pressures to be restarted
   this AM.   No HD per family request. Shock liver resolving. Afebrile at
   this time.
   - FU Blood cultures
   - Double GNR coverage with cefepime, cipro; meropenum,  flagyl,
   vancomycin dosed per level.  Will consider narrowing coverage once
   decision is made regarding
   - Levophed, titrate as needed.
   - Bolus fluids PRN
   .
   # Abdominal Distention: Likely gastric outlet vs. SBO.
   -          NPO
   -          Hold TF
   -          NO KUB at this time
   .
   # ARF/hyperkalemia. ATN secondary to hyopotension.  Creatinine stable.
   Persistent hyperkalemia without EKG changes. No bm so unable to use
   kayexalate.
   - Bicarb for Hyperkalemia
   - Daily lytes
   .
   # Coagulopathy/thrombocytopenia.
   Likely DIC given severity of infection and very high FDP, but
   fibrinogen presently WNLs.  NTD.
   - Consider transfusion of  platelets when <10 or if bleeds.
   # Transaminitis.  Likely shock liver. Is improving now.
   - Support BP and management of sepsis as above.
   # Hypoxia: Stable on pressure support.
   - Continue antibiotics.
   - Family meeting re: extubation (awaiting out
[**Location 12454**]family)
   .
   # Leukocytosis/bandemia.  With sepsis as above. Stable.
   - Management of septic shock as above.
   - Continue antibiotic therapy. Narrow as above.
   # FEN:  Replete electrolytes, NPO for now (based on trial with complete
   suction of stomach contents)
   # Prophylaxis: Hold SQH given coagulopathy; boots
   # Access: peripherals, port
   # Communication: husband
   # Code:  Full - discussed with husband.  [**Name (NI) **] was hospice care at
   home with cutting down all meds.  Clearly current aggressive plans not
   in line with this, but husband hopeful despite very poor current (and
   longterm) prognosis.  He is still actively looking for alternative
   treatments for cancer.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin, Sliding Scale
   Lines:
   Indwelling Port (PortaCath) - [**2112-1-31**] 12:54 AM
   18 Gauge - [**2112-1-31**] 02:02 AM
   Arterial Line - [**2112-1-31**] 02:44 AM
   Prophylaxis:
   DVT: Hold SQH given coagulopathy, boots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: See above. No CPR, No epi, No atropine.
   Disposition: ICU for Now.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 58F metastatic colon ca c/b shock/MOSF.
   CT with diffuse lung and liver infiltration. Per recent family mtg, we
   continue support at current level, but will not escalate (no HD, no
   CPR).  Placed back on pressors this am, now weaning.
   Exam notable for Tm 97.5  BP 92/51  HR 101  RR 13 with sat 97 on PSV
   [**6-8**]  0.4. Obese F, eyes open but unable to follow commands. coarse BS,
   decreased bb, RRR s1s2. tachy, Firm, distended, w/o BS. 4+ edema,
   grimace to movement/palpation of R leg.
   Labs notable for WBC 27K, HCT 34, plt 39, K+ 5.1, na 139, Cr 4.5.
   No new micro data.  CXR reviewed--clight increase in volume loss on R,
   elevated R hemid, cardiac shift, no new focal findings.
   Agree with plan to continue current level of supportive care for MOSF
   in the setting of widely metastatic colon cancer and sepsis.
   She contintue to have a profound leukocytosis, ? c diff, leukemoid rx,
   inflammtion, abscess.  We continue abx, given high risk for
   bowel translocation in setting of gastric outlet vs. bowel obstruction,
   also covering c diff, pressors to maintain MAPS > 65 weaning as able,
   bowel rest. Follow lactate level.  Recx and f/u pending data.  As pt
   grimaces to touch, would continue fentanyl for pain control, increase
   for comfort, understanding that this will further impact MS and ability
   to interact with family.  Her thrombocytopenia remains stable. No
   current evidence of active bleeding.  Is likely multifactorial from
   sepsis/ liver failure/ possible marrow involvement from advanced
   malignancy.  Her creatinine continues to increase and urine outpt
   decreasing. Patient is DNR.  She is not improving despite aggressive
   supportive care and has no further oncologic treatment options
   available. HD would not be a brindge to recovery. We continue to
   communicate with family and discuss possible transition
   to terminal extubation and  CMO.  Palliative care c/s is following.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   Addendum:
   I met with pt's family and updated them to her current
   condition. Family friend, Dr. [**First Name (STitle) 1296**] was also present.  Family
   understands that pt remains critically ill on life support , that she
   is not improving despite our aggressive care and that we are limited in
   terms of treatment options regarding her advanced malignancy and organ
   failure.  Family had many questions about transition to CMO, which were
   discussed in detail  At this time, family is not ready to change goals
   of care towrad  comfort and we continue with current level of care.
   Additional time spent in family meeting:  45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2112-2-5**] 07:22 PM ------

2112-02-06 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: multi-organ failure, sepsis, ARF, metastatic colon
   cancer
   24 Hour Events:
   - Family gradually becoming more accustomed to prognosis. At family
   meeting yesterday, transition to CMO discussed, but pt not ready to
   change goals of care towards comfort yet.
   - Needed some Versed again overnight for agitation associated with
   tachycardia and increased BP.
   - A-line patency poor and will likely need to be rewired or replaced.
   Unable to get labs from portacath this a.m.
   - still obstipated
   Allergies:
   Lisinopril angioedema;Felodipine
   Wheezing; Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl) Hives; Iodine
   Wheezing; Latex Rash; Levofloxacin Hemihydrate (Miscell.)
   (Levofloxacin)
   swollen lips; Augmentin (Oral) (Amox Tr/Potassium Clavulanate) swollen
   lips;
   Sulfa (Sulfonamides) lip swelling an
   Clindamycin Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-4**] 08:30 AM
   Ciprofloxacin - [**2112-2-5**] 04:00 AM
   Metronidazole - [**2112-2-5**] 08:30 PM
   Meropenem - [**2112-2-6**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-2-5**] 08:00 AM
   Fentanyl - [**2112-2-5**] 09:15 PM
   Midazolam (Versed) - [**2112-2-6**] 04:45 AM
   Other medications:
   Flowsheet Data as of  [**2112-2-6**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 118 (101 - 137) bpm
   BP: 107/60(75) {71/46(56) - 142/91(102)} mmHg
   RR: 11 (10 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 62 Inch
             Total In:
                                                                  1,312 mL
                                                                    475 mL
   PO:
             TF:
   IVF:
                                                                  1,182 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                    230 mL
                                                                     10 mL
   Urine:
                                                                     55 mL
   NG:
                                                                    175 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  1,082 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 708 (602 - 785) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 9.5 L/min
   Physical Examination
   Gen: Intubated and sedated, appears intermittently uncomfortable
   Pulm: loud ventilator noises
   CV: tachycardic, no obvious murmur
   ABD: Distended, No bowel sounds.
   Neurologic: Does not respond to command.
   Labs / Radiology
   52 K/uL
   11.0 g/dL
   121 mg/dL
   4.8 mg/dL
   16 mEq/L
   5.7 mEq/L
   87 mg/dL
   98 mEq/L
   135 mEq/L
   35.1 %
   31.2 K/uL
        [image002.jpg]
                            [**2112-2-1**]  12:57 PM
                            [**2112-2-1**]  05:10 PM
                            [**2112-2-2**]  01:46 AM
                            [**2112-2-2**]  06:30 AM
                            [**2112-2-2**]  03:27 PM
                            [**2112-2-3**]  02:36 AM
                            [**2112-2-3**]  02:44 AM
                            [**2112-2-4**]  03:18 AM
                             [**2112-2-5**]  02:47 AM
                             [**2112-2-6**]  04:15 AM
   WBC
   24.1
   25.2
   25.0
   27.0
   25.6
   26.8
   31.2
   Hct
   34.0
   32.9
   33.0
   34.4
   34.1
   34.3
   35.1
   Plt
   79
   49
   43
   40
   42
   39
   52
   Cr
   3.9
   4.2
   4.0
   4.1
   4.3
   4.5
   4.8
   TCO2
   20
   21
   21
   Glucose
   112
   107
   127
   96
   90
   77
   121
   Other labs: PT / PTT / INR:25.8/38.4/2.5, CK / CKMB /
   Troponin-T:618/9/0.08, ALT / AST:217/114, Alk Phos / T Bili:898/5.6,
   Fibrinogen:275 mg/dL, Lactic Acid:5.3 mmol/L, Albumin:2.1 g/dL,
   LDH:[**Numeric Identifier 12384**] IU/L, Ca++:6.3 mg/dL, Mg++:2.7 mg/dL, PO4:8.4 mg/dL
   Imaging: None new
   Microbiology: None new
   Assessment and Plan
   58F with widely metastatic colon cancer, presenting with septic shock
   and severe metabolic acidosis, ARF, hyperkalemia.
   .
   # Family meeting and plan of care:
   The family wants medical treatment without invasive measures.  The
   measures that they wish to forgo include dialysis.  The measures to
   continue include pressors, medical treatment of hyperkalemia,
   antibiotics. Please see Attending note for further detail.
   -- Further discussion regarding extubation today
   -- No dialysis
   -- Continue antibiotics, pressors, medical treatment.
   .
   # Hypotension/Septic shock/MODS.  Most likely pulmonary source given
   positive sputum culture and evidence of right sided pneumonia. Off
   pressors for some time yesterday, required pressures to be restarted
   this AM.   No HD per family request. Shock liver resolving. Afebrile at
   this time.
   - FU Blood cultures
   - Double GNR coverage with cipro; meropenum, flagyl (for empiric C.
   diff coverage), vancomycin dosed per level.  Will consider narrowing
   coverage once decision is made regarding
   - Levophed, titrate as needed. Can add vasopressin if needed.
   - Bolus fluids PRN
   - Follow ABGs, lactate to assess acidosis
   .
   # Abdominal Distention: Likely gastric outlet vs. SBO vs ileus.
   -          NPO
   -          Hold TF
   .
   # ARF/hyperkalemia. ATN secondary to hyopotension.  Creatinine stable.
   Persistent hyperkalemia without EKG changes. No bm so unable to use
   kayexalate.
   - Bicarb for Hyperkalemia
   - Daily lytes
   .
   # Coagulopathy/thrombocytopenia.
   Likely DIC given severity of infection and very high FDP, but
   fibrinogen presently WNLs.  NTD.
   - Consider transfusion of platelets when <10 or if bleeds.
   - Will give Vit K 10mg IV.
   .
   # Transaminitis.  Likely shock liver. Is improving now.
   - Support BP and management of sepsis as above.
   .
   # Hypoxia: Stable on pressure support.
   - Continue antibiotics.
   - Family meeting re: extubation (awaiting out
[**Location 12454**]family)
   .
   # Leukocytosis/bandemia.  With sepsis as above. Stable.
   - Management of septic shock as above.
   - Continue antibiotic therapy. Narrow as above.
   .
   # FEN:  Replete electrolytes, NPO for now (based on trial with complete
   suction of stomach contents)
   # Prophylaxis: Hold SQH given coagulopathy; boots
   # Access: port, a. line
   # Communication: husband
   # Code:  DNR - discussed with husband.  [**Name (NI) **] was hospice care at
   home with cutting down all meds.  Clearly current aggressive plans not
   in line with this, but husband hopeful despite very poor current (and
   longterm) prognosis.  He is still actively looking for alternative
   treatments for cancer.
   # Disposition: ICU pending clinical improvement

2112-02-07 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mult-organ failure, sepsis, metastatic colon cancer
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-2-6**] 07:40 PM
   - Again addressed goals of care with family.  Still not ready to make
   pt [**Name (NI) 580**], as husband wants to contact rest of pt's family.  Will consider
   withdrawing care in [**3-9**] days, if no significant improvement.  Do not
   want any escalation of care (e.g. resuscitation), but OK to add another
   pressor if needed.
   - Given pt's elevated potassium (5.7) this am, obtained ECG, which
   showed sinus tachycardia at 120 as well as 0.5mm ST elevation in V1 and
   V2 w. depressions in V5/V6.  No peaked Ts. Obtained CEs (trending down,
   trop 0.04 from 0.08) and gave ASA.
   - Pt's A-line is no longer working (now pulled) and cannot draw from
   Port, although pt is receiving medications/pressors through port.  Will
   need to address this with the family, and either place new A-line or
   central access for labs.
   - Still no BMS
   Allergies:
   Lisinopril angioedema; Felodipine
   Wheezing; Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl) Hives; Iodine
   Wheezing; Latex Rash;
   Levofloxacin Hemihydrate (Miscell.) (Levofloxacin) swollen lips;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate) swollen lips;
   Sulfa (Sulfonamides) lip swelling an
   Clindamycin Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-4**] 08:30 AM
   Meropenem - [**2112-2-7**] 01:30 AM
   Metronidazole - [**2112-2-7**] 04:00 AM
   Ciprofloxacin - [**2112-2-7**] 04:45 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2112-2-6**] 07:50 AM Famotidine (Pepcid)
   - [**2112-2-6**] 07:56 AM
   Midazolam (Versed) - [**2112-2-7**] 03:27 AM Fentanyl - [**2112-2-7**] 03:27 AM
   Other medications:
   Flowsheet Data as of  [**2112-2-7**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 109 (106 - 127) bpm
   BP: 119/60(74) {107/52(65) - 146/69(84)} mmHg
   RR: 15 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 62 Inch
             Total In:
                                                                  2,278 mL
                                                                    859 mL
   PO:
             TF:
   IVF:
                                                                  2,078 mL
                                                                    859 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                     23 mL
   Urine:
                                                                     50 mL
                                                                     23 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,218 mL
                                                                    836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 565 (565 - 874) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.40/27/87.[**Numeric Identifier 181**]/12/-5
   Ve: 6.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: Intubated and sedated
   Pulm: coarse BS bilat
   CV: tachycardic, no obvious murmur
   ABD: Distended, No bowel sounds.
   Neurologic: Does not respond to command. Non-tracking. Grimaces to
   pain.
   Labs / Radiology
   61 K/uL
   11.2 g/dL
   105 mg/dL
   3.6 mg/dL
   12 mEq/L
   4.5 mEq/L
   74 mg/dL
   109 mEq/L
   138 mEq/L
   36.0 %
   36.5 K/uL
        [image002.jpg]
                            [**2112-2-2**]  01:46 AM
                            [**2112-2-2**]  06:30 AM
                            [**2112-2-2**]  03:27 PM
                            [**2112-2-3**]  02:36 AM
                            [**2112-2-3**]  02:44 AM
                            [**2112-2-4**]  03:18 AM
                             [**2112-2-5**]  02:47 AM
                             [**2112-2-6**]  04:15 AM
                             [**2112-2-6**]  11:55 AM
                             [**2112-2-6**]  04:56 PM
   WBC
   25.2
   25.0
   27.0
   25.6
   26.8
   31.2
   36.5
   Hct
   32.9
   33.0
   34.4
   34.1
   34.3
   35.1
   36.0
   Plt
   49
   43
   40
   42
   39
   52
   61
   Cr
   4.2
   4.0
   4.1
   4.3
   4.5
   4.8
   3.6
   TropT
   0.04
   TCO2
   21
   21
   17
   Glucose
   107
   127
   96
   90
   77
   121
   105
   Other labs: PT / PTT / INR:25.8/38.4/2.5, CK / CKMB /
   Troponin-T:151/9/0.04, ALT / AST:217/114, Alk Phos / T Bili:898/5.6,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, Fibrinogen:275 mg/dL, Lactic Acid:5.4 mmol/L, Albumin:2.1 g/dL,
   LDH:[**Numeric Identifier 12384**] IU/L, Ca++:4.7 mg/dL, Mg++:2.1 mg/dL, PO4:6.9 mg/dL
   Imaging: CXR [**2-7**] (my read) - elevated hemidiaphragm, numerous mets, ?
   incr L effusion
   Microbiology: [**1-30**] Sputum - MSSA
   ECG: sinus tach at 120, <0.5 STT elevations in V1,V2 w. reciprocal
   depressions in V5, V6
   Assessment and Plan
   58F with widely metastatic colon cancer, presenting with septic shock
   and severe metabolic acidosis, ARF, hyperkalemia.
   .
   # Family meeting and plan of care:
   The family wants medical treatment without invasive measures.  The
   measures that they wish to forgo include dialysis.  The measures to
   continue include pressors, medical treatment of hyperkalemia,
   antibiotics. Please see Attending note for further detail.
   -- No dialysis
   -- Continue antibiotics, pressors, medical treatment.
   -- Need to address need for additional access to continue medical
   treatment.
   .
   # Hypotension/Septic shock/MODS.  Most likely pulmonary source given
   positive sputum culture and evidence of right sided pneumonia. On
   presors.   No HD per family request. Shock liver resolving. Afebrile at
   this time.
   - FU Blood cultures
   - Double GNR coverage with cipro; meropenum, flagyl (for empiric C.
   diff coverage), vancomycin dosed per level.  Will consider narrowing
   coverage once decision is made regarding goals of care.
   - Levophed, titrate as needed. Can add vasopressin if needed.
   - Bolus fluids PRN
   - Follow lactate to assess acidosis
   .
   # Abdominal Distention: Likely gastric outlet vs. SBO vs ileus.
   -  NPO
   -  Hold TF
   .
   # ARF/hyperkalemia. ATN secondary to hyopotension.  Creatinine stable.
   Persistent hyperkalemia without EKG changes. No BMs so unable to use
   kayexalate.
   - Bicarb for Hyperkalemia prn
   - Daily lytes when access obtained.
   .
   # Coagulopathy/thrombocytopenia.
   Likely DIC given severity of infection and very high FDP, but
   fibrinogen presently WNLs.  NTD.
   - Consider transfusion of platelets when <10 or if bleeds.
   - Follow daily CBC, coags.
   .
   # Transaminitis.  Likely shock liver. Is improving now.
   - Support BP and management of sepsis as above.
   .
   # Hypoxia: Stable on pressure support.
   - Continue antibiotics.
   - Will continue to speak with the family about transition to [**Month/Year (2) 580**].
   .
   # Leukocytosis/bandemia.  With sepsis as above. Stable.
   - Management of septic shock as above.
   - Continue antibiotic therapy. Narrow as above.
   .
   # FEN:  Replete electrolytes, NPO for now
   # Prophylaxis: Hold SQH given coagulopathy; boots
   # Access: port (not drawing), need to gain additional access this PM if
   in keeping with family
s goals of care
   # Communication: husband, son
   # [**Name2 (NI) 36**]:  DNR - discussed with husband.  Considering making pt [**Name (NI) 580**] later
   this week.
   # Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 58F metastatic colon ca c/b shock/MOSF.
   CT with diffuse lung and liver infiltration. We continue support at
   current level,  w/o escalate (no HD, no CPR).  . Ongoing meetings with
   family regarding goals of care.  She remains on pressors, anuric.
   A-line no longer functioning --> pulled.  No longer able to draw from
   port.  ST changes on ecg.  Trop 0.04.  No HD change.
   Exam notable for AF  BP 120/60  HR 110 RR 16 with sat 98% on PSV  [**6-8**]
   0.4. Obese F, eyes open but unable to follow commands, coarse BS,
   decreased bb, RRR s1s2. tachy, firm, remains distended, absent BS. 4+
   edema, gross anasarca
   Labs notable for WBC 36.5K, HCT 36, plt 61, K+ 4.5, na 135, Cr 3.6, bun
   74, trop 0.04, 7.40/27/88
   CXR--rotated, no obvious change, diffuse mets, sm effusion, r hemid
   elevation
   Agree with plan to continue current level of supportive care for MOSF
   in the setting of widely metastatic colon cancer and sepsis. She is not
   improving despite aggressive supportive care and has no further
   oncologic treatment options available.Given grim prognosis and limited
   treatment options, we continue to communicate with family and discuss
   possible transition to terminal extubation and [**Month/Day (1) 580**].   She remains AF
   but continues to have a profound leukocytosis--? c diff, leukemoid rx,
   inflammation, abscess.  We continue empiric broad abx given high risk
   for bowel translocation in setting of ? GOO vs. ileus, also covering c
   diff.  She remains on bowel rest.  We continue pressors to maintain
   MAPS > 60, weaning as able, but if necessary to add second [**Last Name (LF) **], [**First Name3 (LF) **]
   use vasopressin.  Continue fentanyl for pain control, increase as
   needed for comfort.  Her thrombocytopenia remains essentially stable.
   There is no current evidence of active bleeding.  Is
   likely multifactorial from sepsis/ liver failure/ possible
   marrow involvement from advanced malignancy.   Coagulopathy also likely
   from liver involvement and nutritional deficiency.  S/p vit K.  She
   remains in ARF, anuric, HD would not be a bridge to recovery. Will
   medically manage if has recurrent hyperkalemia as able, follow ecg.  In
   terms of resp failure, although her RSBI is low, volume ol, extensive
   lung mets, and limited MS all are barriers to extubation at this time,
   as we continue to address goals of care / possible terminal
   extubation. Will d/w family replacing a-line if we will continue this
   level of care, as access now more limited. Patient is DNR.  Palliative
   care c/s is following.  Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2112-2-7**] 15:48 ------
   Addendum
   I spoke with pts husband.  [**Name (NI) **] was updated and all questions answered.
   At this time, he and other family members have decided to refocus goals
   of care to aggressive comfort/[**Name (NI) 580**] with terminal extubation.  Many
   friends and extended family coming for [**Hospital1 **] and support.
   Additional time spent: 15 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2112-2-7**] 17:51 ------